Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
___ / ___
 
Attending: ___.
 
Chief Complaint:
short cervix
 
Major Surgical or Invasive Procedure:
primay low transverse c-section

 
History of Present Illness:
___ yo G1P0 who presents at 25 weeks 0 days for antepartum
admission given the new finding of short cervix.

Yesterday she complained of ongoing right hip pain and increased
vaginal discharge for 1 week. She was evaluated in OB triage
where the cervix was visually closed, had physiologic appearing
discharge and a negative UA.

She was seen for follow up today and had a TVUS which showed a
short cervix with unmeasureable length. Fetal status was
otherwise reassuring, breech presentation

ROS: Denies fever, chills, other abdominal pain, abdominal
trauma, dysuria, vaginal discharge, vaginal bleeding, DFM, LOF.

 
Past Medical History:
PNC: ___ ___
Labs: prenatal labs not available at this time
Glucose screening: T1DM
Screening: LR NIPT
Issues:
- T1 DM
- Short cervix - newly diagnosed today

PObHx: G1 current

PGynHx: No history of LEEP or other cervical procedure.
- denies h/o STI, fibroids, surgery

PMHx:
- T1 DM
- Asthma

PSHx: denies

Meds: PNV, albuterol, tylenol

Allergies: codeine, PCN cause GI intolerance

Social History: ___
Family History:
N/A
 
Physical Exam:
PE: Vital signs 98.0   87   18   110/74
General: comfortable
Abdomen: soft, no fundal tenderness, no palpable ctx
Ext: no erythema, no edema
SVE: deferred
FHT: 120 mod var, + 10 x 10 accels, no decels
TOCO: no contractions

EFW: ___ today, complete breech

 
Pertinent Results:
___ 08:26PM BLOOD WBC-12.1* RBC-3.99* Hgb-13.3 Hct-37.5 
MCV-94 MCH-33.3* MCHC-35.5* RDW-13.0 Plt ___
___ 11:29AM BLOOD WBC-17.3* RBC-4.01* Hgb-13.1 Hct-36.6 
MCV-91 MCH-32.6* MCHC-35.7* RDW-12.9 Plt ___
___ 06:19PM BLOOD WBC-12.5* RBC-2.89*# Hgb-9.5*# Hct-26.7*# 
MCV-92 MCH-33.0* MCHC-35.7* RDW-12.9 Plt ___
___ 08:26PM BLOOD Neuts-77.6* Lymphs-16.3* Monos-4.5 
Eos-1.3 Baso-0.3
___ 06:19PM BLOOD Neuts-82.9* Lymphs-12.9* Monos-3.5 
Eos-0.5 Baso-0.1
___ 10:11AM BLOOD Glucose-87 UreaN-8 Creat-0.7 Na-133 
K-6.3* Cl-100 HCO3-23 AnGap-16
___ 12:00PM BLOOD Glucose-78 UreaN-8 Creat-0.7 Na-134 K-3.8 
Cl-100 HCO3-23 AnGap-15
___ 08:26PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-0.2 pH-7.0 Leuks-MOD

   SMEAR FOR BACTERIAL VAGINOSIS (Final ___: 
      GRAM STAIN NEGATIVE FOR BACTERIAL VAGINOSIS. 

   YEAST VAGINITIS CULTURE (Final ___:    NEGATIVE FOR 
YEAST. 

   Chlamydia trachomatis, Nucleic Acid Probe, with Amplification 
(Final
      ___:    Negative for Chlamydia trachomatis by 
PANTHER System,
      APTIMA COMBO 2 Assay. 

   NEISSERIA GONORRHOEAE (GC), NUCLEIC ACID PROBE, WITH 
AMPLIFICATION
      (Final ___:    Negative for Neisseria gonorrhoeae by 
___
      System, APTIMA COMBO 2 Assay. 

  URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

 R/O Group B Strep - Penicillin Allergy (Final ___: 
      NEGATIVE FOR GROUP B BETA STREP. 

 
Brief Hospital Course:
On ___ Ms. ___ was admitted to the antepartum 
service with short cervix and given betamethasone. The 
Neonatology service was consulted. On Hospital day #1 she 
complained of increasing cramping and was contracting and was 
found to be 4 cm dilated and started on Magnesium for neuro 
protection and Indocin and started on an Insulin drip. She 
completed a course of betamethasone for fetal lung maturity and 
this course was complete on ___. At this point the indocin 
was discontinued and the patient was transitioned back on to her 
pump. ___ was also following to help manage her diabetes in 
pregnancy. In the course of her hospitalization on ___ she 
ruptured her membranes and subsequently underwent a low 
transverse cesarean delivery. Please see operative note for full 
details. Post partum she developed a fever and received 
ampicilin, gentamicin and clindamycin for 24 hours afebrile. 
Otherwise she recovered well and was discharged home on post 
partum day #4. 
 
Medications on Admission:
Insulin, PNV
 
Discharge Medications:
1. Clotrimazole Cream 1 Appl TP BID yeast 
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth q 6 hrs Disp #*40 
Tablet Refills:*0
3. Insulin  Pump SC (Self Administering Medication)Insulin 
Lispro (Humalog)

Basal Rates:
  Midnight - Midnight:  .55 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:10
  Lunch = 1:12
  Dinner = 1:12
  Snacks = 1:12
High Bolus:
  Correction Factor = 1:50
  Correct To ___ mg/dL

4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q ___ hrs Disp #*40 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
incompetent cervix, preterm labor and delivery, premature 
rupture of membranes, type I diabetes, breech presentation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
see instruction sheet, no heavy lifting, no intercourse or 
tampons for 6 weeks.
 
Followup Instructions:
___